US05519043
4-(9H-Fluoren-9-yl)butyronitrile (5)
A solution of fluorene (5.04 g; 30.32 mmol) in THF (50 mL) was cooled to 0° C. and treated with n-butyllithium (12.13 mL of a 2.5M solution in hexanes; 30.32 mmol). After stirring the red anion mixture for 15 minutes, 4-bromobutyronitrile (4.86 g; 31.84 mmol) in 20 mL of THF was added via syringe, and the mixture was stirred overnight. It was quenched with 100 mL of saturated ammonium chloride and extracted into ethyl acetate (2×75 mL); the organic portions were washed with brine, dried and concentrated. The crude product was purified on a silica gel column, eluted with 20% ethyl acetate in hexane, to afford 4.91 g (70%) of the product as an orange oil. 1H NMR (CDCl3): δ 1.38 (m, 4H); 2.18, 2.29 (m, 2H each); 4.10 (m, 1H); 7.37 (m, 4H); 7.45 (d, 2H); 7.75 (d, 2H).

reactant | fluorene | 30.32 mmol, 5.04 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromobutyronitrile | 31.84 mmol, 4.86 g | BrCCCC#N | C4H6BrN
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(9H-Fluoren-9-yl)butyronitrile | 4.91 g, 70% | C1=CC=CC=2C3=CC=CC=C3C(C12)CCCC#N | C17H15N
